US07884109B2
A solution of (R)-2-chloro-N-(8-fluorochroman-4-yl)-5-nitropyrimidin-4-amine in acetonitrile was treated with 5,6-dichlorobenzimidazole and potassium carbonate. The mixture was stirred at reflux for 6 hours, cooled to room temperature, diluted with 150 mL of EtOAc, and washed twice with 30 mL portions of water. The organic layer was separated, dried with magnesium sulfate, filtered, and concentrated in vacuo. Purification by column chromatography (2% MeOH/DCM) gave the intermediate nitropyrimidinamine. The title compound was synthesized from the intermediate nitropyrimidinamine via the procedures described in Example 24. 1H-NMR (300 MHz, CDCl3) δ 8.7 (s, 1H), 8.3 (s, 1H), 8.2 (s, 1H), 7.8 (t, 1H), 7.0 (t, 1H), 6.6 (m, 2H), 5.9 (t, 1H), 4.6 (m, 1H), 4.4 (m, 1H), 3.0 (m, 1H), 2.3 (m, 1H).

reactant | (R)-2-chloro-N-(8-fluorochroman-4-yl)-5-nitropyrimidin-4-amine | ClC1=NC=C(C(=N1)N[C@@H]1CCOC2=C(C=CC=C12)F)[N+](=O)[O-] | C13H10ClFN4O3
reactant | 5,6-dichlorobenzimidazole | ClC1=CC2=C(N=CN2)C=C1Cl | C7H4Cl2N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | C(C)#N | C2H3N
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | nitropyrimidinamine | [N+](=O)([O-])C1=NC(=NC=C1)N | C4H4N4O2
